US04722929
1,3-Dimethyl-8-(2-methoxy-4-benzyloxy-phenyl)-1H,3H-purin-2,6-dione
Prepared analogously to Example 14 from 1,3-dimethyl-4,5-diamino-1H,3H-pyrimidin-2,6-dione and 2-methoxy-4-benzyloxybenzoic acid.

reactant | 1,3-dimethyl-4,5-diamino-1H,3H-pyrimidin-2,6-dione | CN1C(N(C(=C(C1=O)N)N)C)=O | C6H10N4O2
reactant | 2-methoxy-4-benzyloxybenzoic acid | COC1=C(C(=O)O)C=CC(=C1)OCC1=CC=CC=C1 | C15H14O4
product | 1,3-Dimethyl-8-(2-methoxy-4-benzyloxy-phenyl)-1H,3H-purin-2,6-dione | CN1C(N(C=2N=C(NC2C1=O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)OC)C)=O | C21H20N4O4
